US06727264B1
3-CHLOROPROPYL 2-FLUOROPHENYL SULFIDE:
Prepared by Procedure R and Scheme Z using 2-fluorobenzenethiol and 1-bromo-3-chloropropane.

reactant | 2-fluorobenzenethiol | FC1=C(C=CC=C1)S | C6H5FS
reactant | 1-bromo-3-chloropropane | BrCCCCl | C3H6BrCl
product | 3-CHLOROPROPYL 2-FLUOROPHENYL SULFIDE | FC1=C(C=CC=C1)SCCCCl | C9H10ClFS
